US06403586B1
Preparation of 6-(3-Fluoro-4-methoxyphenyl)-2-isobutyl-4-methoxycarbonyl-2H-pyridaz in-3 -one
Using 6-(3-fluoro-4-methoxyphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one and 1-bromo-2-methylpropane as starting materials, the procedures of Example 1 were repeated likewise, whereby the title compound was obtained in a yield of 69.9%.

reactant | 6-(3-fluoro-4-methoxyphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one | FC=1C=C(C=CC1OC)C=1C=C(C(NN1)=O)C(=O)OC | C13H11FN2O4
reactant | 1-bromo-2-methylpropane | BrCC(C)C | C4H9Br
product | 6-(3-Fluoro-4-methoxyphenyl)-2-isobutyl-4-methoxycarbonyl-2H-pyridaz in-3 -one | yield of 69.9% | FC=1C=C(C=CC1OC)C=1C=C(C(N(N1)CC(C)C)=O)C(=O)OC | C17H19FN2O4
